US04642347
3-(2-Quinolinylmethoxyl)phenol
To a solution of 15.0 g (70.1 mm) of 2-chloromethylquinoline hydrochloride and 7.71 g (70.1 mm) of resorcinol in 50 ml ethanol under nitrogen is added over 30 minutes dropwise a solution of 9.1 g (140.0 mm) potassium hydroxide in 50 ml ethanol. After addition is complete the reaction mixture is refluxed for 2 hours. The solution is allowed to come to room temperature; the precipitate is then filtered off. The mother liquor is evaporated and the residue is triturated with methylene chloride. Evaporation of the organic solvent gives 10.0 g of crude product. HPLC purification affords 4.6 g of a white solid which when recrystallized from toluene affords white crystals, m.p. 153°-155° C.

reactant | 2-chloromethylquinoline hydrochloride | 15.0 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | resorcinol | 7.71 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium hydroxide | 9.1 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-Quinolinylmethoxyl)phenol | 4.6 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)O | C16H13NO2
